US07642277B2
b) 2-{(2-Bromophenyl)thio}-N-(2-chlorophenyl)acetamide
PCl3 (0.39 mL, 4.45 mmol) was added to an ice-cold solution of 2-{(2-bromophenyl)thio}acetic acid (1.00 g, 4.05 mmol) and 2-chloroaniline (0.47 mL, 4.45 mmol) in pyridine (15 mL). The reaction mixture was stirred at room temperature for 30 min. Water (few drops) was added and the mixture was concentrated under reduced pressure. The residue was purified by flash chromatography (CH2Cl2) to give the title compound (957 mg, 66% yield) as a yellow solid.

reactant | PCl3 | 4.45 mmol, 0.39 mL | P(Cl)(Cl)Cl | Cl3P
reactant | 2-{(2-bromophenyl)thio}acetic acid | 4.05 mmol, 1.00 g | BrC1=C(C=CC=C1)SCC(=O)O | C8H7BrO2S
reactant | 2-chloroaniline | 4.45 mmol, 0.47 mL | ClC1=C(N)C=CC=C1 | C6H6ClN
reactant | Water | O | H2O
solvent | pyridine | 15 mL | N1=CC=CC=C1 | C5H5N
product | 2-{(2-Bromophenyl)thio}-N-(2-chlorophenyl)acetamide | 957 mg, 66% yield | BrC1=C(C=CC=C1)SCC(=O)NC1=C(C=CC=C1)Cl | C14H11BrClNOS
